US07491722B2
5-Acetyl-2-ethyl-4-(isoquinolin-5-ylamino)-6-phenylpyridazin-3(2H)-one
To a stirred solution of 80 mg (0.278 mmol) of 5-acetyl-2-ethyl-4-nitro-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in 4 ml of ethanol, 60 mg (0.417 mmol) of 5-isoquinolinamine was added. The resulting mixture was stirred at room temperature for three days. The final product was collected by filtration and purified by column chromatography (silica gel, ethyl acetate/hexane 7:3) to yield the title compound (20 mg, 12.4% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-phenylpyridazin-3(2H)-one | 0.278 mmol, 80 mg | C(C)(=O)C=1C(=CC(=C(C1)N1N=CC=CC1=O)CC)[N+](=O)[O-] | C14H13N3O4
reactant | 5-isoquinolinamine | 0.417 mmol, 60 mg | C1=NC=CC=2C(=CC=CC12)N | C9H8N2
reactant | ethanol | 4 ml | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-(isoquinolin-5-ylamino)-6-phenylpyridazin-3(2H)-one | 20 mg, 12.4% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=C2C=CN=CC2=CC=C1 | C23H20N4O2
